US07910592B2
Step A: 4-tert-butyl-2-iodo-1-methoxybenzene
A solution of 1-tert-butyl-4-methoxybenzene (0.10 g, 0.61 mmol) in MeOH (2 mL) was added to a mixture of silver sulfate (0.19 g, 0.61 mmol) and iodine (0.154 g, 0.61 mmol) in MeOH (1 mL). The mixture was stirred at room temperature for 1 h. The mixture was filtered. The filtrate was concentrated. The title compound was obtained. 1H NMR (CDCl3, 500 MHz): δ 7.82 (d, J=2.5 Hz, 1H), 7.36 (dd, J=8.5, 2.5 Hz, 1H), 6.80 (d, J=8.5 Hz, 1H), 1.35 (s, 9H).

reactant | 1-tert-butyl-4-methoxybenzene | 0.61 mmol, 0.10 g | C(C)(C)(C)C1=CC=C(C=C1)OC | C11H16O
reactant | iodine | 0.61 mmol, 0.154 g | II | I2
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH | 1 mL | CO | CH4O
catalyst | silver sulfate | 0.61 mmol, 0.19 g | S(=O)(=O)([O-])[O-].[Ag+2]
product | 4-tert-butyl-2-iodo-1-methoxybenzene | C(C)(C)(C)C1=CC(=C(C=C1)OC)I | C11H15IO
